### PR TITLE
[Merged by Bors] - feat: basic big operator plugin for `norm_num`

### PR DESCRIPTION
**Pull request by Vierkantor**
I wrote a basic implementation for a `norm_num` plugin evaluating `Finset.sum` and `Finset.prod`. It does not yet support as many `Finset` expressions as the Mathlib 3 implementation, and it cannot deal with variables appearing in the sum. I believe it's valuable to have this implementation since we do use this plugin in various parts of mathlib.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Tactic/NormNum/BigOperators.lean [hunk 1]
```diff
@@ -0,0 +1,372 @@
+/-
+Copyright (c) 2023 Anne Baanen. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Anne Baanen, Floris van Doorn
+-/
```
Comment (semorrison) [inline Mathlib/Tactic/NormNum/BigOperators.lean:5]: Could you add a header here so the porting dashboard marks off `algebra.big_operators.norm_num` as done on account of this PR?

File: Mathlib/Tactic/NormNum/BigOperators.lean [hunk 2]
```diff
@@ -0,0 +1,372 @@
...
+open Meta
+open Qq
+
+/-- This represents the result of trying to determine whether the given expression `n : Q(ℕ)`
+is either `zero` or `succ`. -/
+inductive Nat.UnifyZeroOrSuccResult (n : Q(ℕ))
+/-- `n` unifies with `0` -/
+| zero (pf : $n =Q 0)
+/-- `n` unifies with `succ n'` for this specific `n'` -/
+| succ (n' : Q(ℕ)) (pf : $n =Q Nat.succ $n')
```
Comment (semorrison) [inline Mathlib/Tactic/NormNum/BigOperators.lean:47]: We now indent the body of `inductive`.

File: Mathlib/Tactic/NormNum/BigOperators.lean [hunk 3]
```diff
@@ -0,0 +1,372 @@
...
+-/
+def Nat.unifyZeroOrSucc (n : Q(ℕ)) : MetaM (Nat.UnifyZeroOrSuccResult n) := do
+match ← isDefEqQ n q(0) with
+| .defEq pf => return .zero pf
+| .notDefEq => do
+  let n' : Q(ℕ) ← mkFreshExprMVar q(ℕ)
+  let ⟨(_pf : $n =Q Nat.succ $n')⟩ ← assertDefEqQ n q(Nat.succ $n')
+  let (.some (n'_val : Q(ℕ))) ← getExprMVarAssignment? n'.mvarId! |
+    throwError "could not figure out value of `?n` from `{n} =?= nat.succ ?n`"
+  pure (.succ n'_val ⟨⟩)
```
Comment (semorrison) [inline Mathlib/Tactic/NormNum/BigOperators.lean:61]: and `do` blocks.

File: Mathlib/Tactic/NormNum/BigOperators.lean [hunk 4]
```diff
@@ -0,0 +1,372 @@
...
+-/
+def Multiset.ProveZeroOrConsResult.eq_trans {α : Q(Type u)} {s t : Q(Multiset $α)}
+    (eq : Q($s = $t)) :
+    Multiset.ProveZeroOrConsResult t → Multiset.ProveZeroOrConsResult s
+| .zero pf => .zero q(Eq.trans $eq $pf)
+| .cons a s' pf => .cons a s' q(Eq.trans $eq $pf)
+
+lemma Multiset.insert_eq_cons {α : Type _} [DecidableEq α] (a : α) (s : Multiset α) :
+  insert a s = Multiset.cons a s :=
+by ext; simp
```
Comment (semorrison) [inline Mathlib/Tactic/NormNum/BigOperators.lean:158]:
```suggestion
    insert a s = Multiset.cons a s := by 
  ext; simp
```

File: Mathlib/Tactic/NormNum/BigOperators.lean [hunk 5]
```diff
@@ -0,0 +1,372 @@
...
+  have eq : Q($a = $b) := eq
+  have proof : Q(¬ $b) := proof
+ Result.isFalse (x := a) q($eq ▸ $proof)
+| .isNat inst lit proof => Result.isNat inst lit q($eq ▸ $proof)
+| .isNegNat inst lit proof => Result.isNegNat inst lit q($eq ▸ $proof)
+| .isRat inst q n d proof => Result.isRat inst q n d q($eq ▸ $proof)
+
+protected lemma Finset.sum_empty {β α : Type _} [CommSemiring β] (f : α → β) :
+    IsNat (Finset.sum ∅ f) 0 :=
+  ⟨by simp⟩
```
Comment (semorrison) [inline Mathlib/Tactic/NormNum/BigOperators.lean:292]: Does this work via `to_additive`?

File: Mathlib/Tactic/NormNum/BigOperators.lean [hunk 6]
```diff
@@ -0,0 +1,372 @@
...
+partial def evalFinsetBigop {α : Q(Type u)} {β : Q(Type v)}
+    (op : Q(Finset $α → ($α → $β) → $β))
+    (f : Q($α → $β))
+    (res_empty : Result q($op Finset.empty $f))
+    (res_cons : {a : Q($α)} -> {s' : Q(Finset $α)} -> {h : Q($a ∉ $s')} ->
+      Result (α := β) q($f $a) -> Result (α := β) q($op $s' $f) ->
+      MetaM (Result (α := β) q($op (Finset.cons $a $s' $h) $f))) :
+    (s : Q(Finset $α)) → MetaM (Result (α := β) q($op $s $f))
+| s => do
+  match ← Finset.proveEmptyOrCons s with
```
Comment (semorrison) [inline Mathlib/Tactic/NormNum/BigOperators.lean:309]: Just thinking out loud here, not necessarily a request for this implementation:

Could we have functions like `List.proveEq` (perhaps the wrong name) that takes a `Q(List α)` and returns a `List (Q α)` and an appropriate proof? This (and similarly for Multiset/Finset) feel like they might be good building blocks for other tactics.

File: Mathlib/Tactic/NormNum/BigOperators.lean [hunk 7]
```diff
@@ -0,0 +1,372 @@
...
+In particular, we can't use the plugin on sums containing variables.
+(See also the TODO note "To support variables".)
+
+## TODOs
+
+ * Support intervals: `Finset.Ico`, `Finset.Icc`, ...
+ * To support variables, like in Mathlib 3, turn this into a standalone tactic that unfolds
+   the sum/prod, without computing its numeric value (using the `ring` tactic to do some
+   normalization?)
+-/
```
Comment (semorrison) [inline Mathlib/Tactic/NormNum/BigOperators.lean:33]: Could we have a cross-reference to the `fin_cases` tactic, which has related scope?

File: Mathlib/Tactic/NormNum/BigOperators.lean (hunk 5 above)
Comment (Vierkantor) [reply Mathlib/Tactic/NormNum/BigOperators.lean:292]: I get the following error:
```
application type mismatch
  Finset.sum
argument has type
  CommMonoid β
but function has type
  [inst : AddCommMonoid β] → Finset α → (α → β) → β
```
I think it's because the `CommSemiring` argument, that `CommSemiring.toCommMonoid` does not get `to_additive`ised to `CommSemiring.toAddCommMonoid`.

File: Mathlib/Tactic/NormNum/BigOperators.lean (hunk 6 above)
Comment (Vierkantor) [reply Mathlib/Tactic/NormNum/BigOperators.lean]: This was my initial design for this tactic, and I think it would still work, however I could not figure out how to keep track of the proof that the `List (Q α)` indeed corresponds to the `Q(List α)` after we e.g. remove the first cons from the list.

A small additional advantage to the `proveConsOrNil` pattern is that it is a bit more lazy, so it might help performance slightly.

**Review by fpvandoorn — COMMENTED** [review]
Sorry for not reviewing this for so long!

This `norm_num` extension looks quite different than most other extensions. This is of course very related to the fact that the current `norm_num` design doesn't support normalizing lists, multisets or finsets at all. I think eventually it will be nice to extend the support for `norm_num` to also be able to normalize those objects (so adding more constructors to `Result'` for `isList`, `isMultiset` etc.), and having `IsList` structures similar to `isNat`/`isInt` etc. But doing this is nontrivial, and maybe you've tried and noticed obstacles?

I think it's good to have this version in mathlib (at least in the meantime). Please incorporate the comments I made, or add some additional "todo's" for the items you don't do.

File: Mathlib/Tactic/NormNum/BigOperators.lean [hunk 8]
```diff
@@ -0,0 +1,384 @@
...
+  let .app (.app (.app (.app (.app (.const `Finset.sum [_, v]) β') α) _) s) f ←
+    whnfR e | failure
+  guard <| ←withNewMCtxDepth <| isDefEq β β'
+  have α : Q(Type v) := α
+  have s : Q(Finset $α) := s
+  have f : Q($α → $β) := f
+  let instCS ← synthInstanceQ (q(CommSemiring $β) : Q(Type u)) <|>
+    throwError "not a commutative semiring: {β}"
+  -- Have to construct this expression manually, `q(0)` doesn't parse correctly:
+  let n : Q(ℕ) := .lit (.natVal 0)
```
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/Tactic/NormNum/BigOperators.lean]: Must have been fixed at some point. Next!

File: Mathlib/Tactic/NormNum/BigOperators.lean [hunk 9]
```diff
@@ -0,0 +1,384 @@
...
+  /-- `n` unifies with `0` -/
+  | zero (pf : $n =Q 0)
+  /-- `n` unifies with `succ n'` for this specific `n'` -/
+  | succ (n' : Q(ℕ)) (pf : $n =Q Nat.succ $n')
+
+/-- Determine whether the expression `n : Q(ℕ)` unifies with `0` or `Nat.succ n'`.
+
+Fails if neither of the options succeed.
+-/
+def Nat.unifyZeroOrSucc (n : Q(ℕ)) : MetaM (Nat.UnifyZeroOrSuccResult n) := do
```
[the remark this answers is not in the document]
Comment (Vierkantor) [reply Mathlib/Tactic/NormNum/BigOperators.lean:62]: The reason I don't use `deriveNat` within the procedure is that we really want definitional equality on the `n` here, since it occurs in types (specifically `Fin n`). I'll try using your described approach for `Finset.range`...

**Comment by Vierkantor** [comment]
Bors is idle and I only touched comments so:

bors r+
